US09328118B2
A mixture of 2,6-dichloro-N4-methylpyrimidine-4,5-diamine (400 mg) and trifluoroacetic acid (8 mL) was stirred for 8 hours while heating to reflux. Furthermore, the reaction mixture was stirred at 120° C. for 1.5 hours under microwave irradiation. After the reaction mixture was concentrated under reduced pressure, phenylphosphonic dichloride (1.8 mL) was added to the residue, and the mixture was stirred 180° C. for 2 hours. After the reaction mixture was cooled to room temperature, cold water (20 mL) was added thereto, then, the mixture was stirred, and the precipitate was collected by filtration. The obtained solid was purified by silica gel column chromatography (Hex:EtOAc=100:0 to 90:10), whereby 2,6-dichloro-9-methyl-8-(trifluoromethyl)-9H-purine (435 mg) was obtained as a white solid.

reactant | 2,6-dichloro-N4-methylpyrimidine-4,5-diamine | 400 mg | ClC1=NC(=C(C(=N1)NC)N)Cl | C5H6Cl2N4
reactant | trifluoroacetic acid | 8 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 2,6-dichloro-9-methyl-8-(trifluoromethyl)-9H-purine | 435 mg | ClC1=NC(=C2N=C(N(C2=N1)C)C(F)(F)F)Cl | C7H3Cl2F3N4
